US05281593
i) 2-Benzyloxy-5-chloronitrobenzene
60% Sodium hydride dispersion in oil (4.4 g, 0.11 mol) was added in portions over 15 minutes to a stirred solution of 4-chloro-2-nitrophenol (17.4 g, 0.10 mol) in dimethylformamide (200 ml) at 0°-5° C. The mixture was stirred for 15 minutes then benzyl chloride (12.7 g, 0.10 mol) was added dropwise over 5 minutes. The mixture was stirred for 5 days at room temperature, diluted with water and extracted with ether. The extract was washed three times with water, dried and evaporated and the residue was triturated with petroleum spirit.

reactant | Sodium hydride | [H-].[Na+]
reactant | 4-chloro-2-nitrophenol | 0.10 mol, 17.4 g | ClC1=CC(=C(C=C1)O)[N+](=O)[O-] | C6H4ClNO3
reactant | benzyl chloride | 0.10 mol, 12.7 g | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2-Benzyloxy-5-chloronitrobenzene | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)Cl)[N+](=O)[O-] | C13H10ClNO3
